US06265382B1
Step 1: (S)-{2-(4-Benzyloxy-phenyl)-1-[(1-phenyl-cyclobutylmethyl)-carbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester
A suspension of Boc-NMe-Tyr(OBn)-OH (0.90 g, 2.3 mmol) and C-(1-phenyl-cyclobutyl)-methylamine hydrochloride (synthesized according to the method in Bridges, A. J., Hamilton, H. W., Moos, W. H., Szotek, D. L., N6-substituted Adenosines, U.S. Pat. No. 4,755,594) (0.46 g, 2.3 mmol) and 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HBTU) (0.97 g, 5.6 mmol) in methylene chloride (10 mL) was treated with DIEA (0.86 mL, 5.1 mmol). The suspension was stirred at room temperature overnight. The resulting solution was concentrated. The residue was taken up in ethyl acetate. The solution was washed with 0.5 M HCl, saturated NaHCO3, dried over MgSO4, filtered, and concentrated. The oil was chromatographed (CH2Cl2:CH3OH 50:1) to give the desired product (1.07 g, 2.02 mmol; 87% yield). MS-APCI 529 (m+1).

reactant | Boc-NMe-Tyr(OBn)-OH | 2.3 mmol, 0.90 g | C(=O)(OC(C)(C)C)N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C | C22H27NO5
reactant | C-(1-phenyl-cyclobutyl)-methylamine hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)CN
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 5.6 mmol, 0.97 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | DIEA | 5.1 mmol, 0.86 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (S)-{2-(4-Benzyloxy-phenyl)-1-[(1-phenyl-cyclobutylmethyl)-carbamoyl]-ethyl}-methyl-carbamic acid tert-butyl ester | 2.02 mmol, 1.07 g, 87% yield | C(C)(C)(C)OC(N(C)[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(NCC1(CCC1)C1=CC=CC=C1)=O)=O | C33H40N2O4
